US05661160
Synthesis of 1-[2-[3-(4-hydroxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 1-[2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide (6 mmol) and THF (20 mL). Cool using an ice bath. Add a 1M THF solution of tetrabutylammonium fluoride (7 mL) in dropwise fashion. After 30 minutes, concentrate in vacuo to obtain a residue. Add dichloromethane (50 mL) to the residue. Extract with water (3×15 mL), dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 1-[2-[3-[4-(tert-butyldimethylsilyloxy)-phenyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 6 mmol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C40H55N3O6Si
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[2-[3-(4-hydroxy-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | OC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H41N3O6
